US04883914
Preparation of 2-acetamido-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide--Method B
2-Amino-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide hydrochloride (45 g~0.4 mols) is completely dissolved in 160 mL of pyridine and 500 mL of THF is added. Acetic anhydride (45 mL) is then poured into the solution and the reaction mixture is heated at reflux for one hour. The solvents are removed under reduced pressure, and the oily residue is crystallized from EtOH/water affording 33.09 g of the title product having m.p. 198°-199° C.

reactant | 2-Amino-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide hydrochloride | Cl.NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C
reactant | THF | 500 mL | C1CCOC1 | C4H8O
reactant | Acetic anhydride | 45 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 160 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetamido-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide | C(C)(=O)NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C | C15H22N2O4S
